US09120749B2
tert-Butyl trans-4-[3-(Cyclopropanecarbonyl)-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate (49 mg, 0.100 mmol) was reacted with 2,6-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (50 mg, 0.196 mmol) to afford the desired product (26.2 mg, 49%) as an off-white solid: ESI MS m/z 538 [C30H33F2N3O4+H]+.

reactant | tert-butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H30BrN3O3
reactant | 2,6-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.196 mmol, 50 mg | FC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BF2O3
product | tert-Butyl trans-4-[3-(Cyclopropanecarbonyl)-6-(3,5-difluoro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 26.2 mg, 49% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)F)O)F | C30H33F2N3O4
